* C:\Git\HP9815_OVP\Simulation\HP9815A_OVP_Sim.asc
XU2 0 N009 N017 TL431
R2 N017 0 7.576k
R8 N009 N017 10k
R9 N010 N009 1k
C2 N008 N010 10n
R10 N013 0 1k
R11 N008 N009 330
R12 N007 N008 0.01
XU3 N008 0 N013 TS1220-600
Q2 N013 N010 N008 0 PNP
I1 N018 N015 {Isource}
I2 N018 0 {Isink}
D1 N015 N018 ID
D2 0 N018 ID
V2 N012 N015 4
C3 N007 0 440µ
D3 N006 N007 ID
S1 N001 N005 N004 0 ISW
V8 N004 0 PULSE(0 1 0.5 0.01 0.1 1 0 1)
R13 N008 0 1.16
R14 N005 N007 0.1
C5 0 N001 5800µF Rser=0.02
I3 N003 N002 {Isource}
I4 N003 0 {Isink}
D4 N002 N003 ID
D5 0 N003 ID
V4 N001 N002 36V
V1 N006 N012 PULSE(0 1 0.2 0.01 0.1 1 0 1)
XU1 0 N014 N016 TL431
R1 N016 0 12.5k
R3 N008 N016 10k
R4 N008 N011 220
D6 N011 N014 LXZ1-PL01
XU4 0 N027 N035 TL431
R5 N035 0 10k
R6 N027 N035 10k
R7 N028 N027 1k
C1 N026 N028 10n
R15 N031 0 1k
R16 N026 N027 330
R17 N025 N026 0.01
XU5 N026 0 N031 TS1220-600
Q1 N031 N028 N026 0 PNP
I5 N036 N033 {Isource}
I6 N036 0 {Isink}
D7 N033 N036 ID
D8 0 N036 ID
V3 N030 N033 4
C4 N025 0 440µ
D9 N024 N025 ID
S2 N019 N023 N022 0 ISW
V5 N022 0 PULSE(0 1 0.5 0.01 0.1 1 0 1)
R18 N026 0 1.16
R19 N023 N025 0.1
C6 0 N019 5800µF Rser=0.02
I7 N021 N020 {Isource}
I8 N021 0 {Isink}
D10 N020 N021 ID
D11 0 N021 ID
V6 N019 N020 36V
V7 N024 N030 PULSE(0 1 0.2 0.01 0.1 1 0 1)
XU6 0 N032 N034 TL431
R20 N034 0 12.5k
R21 N026 N034 10k
R22 N026 N029 200
D12 N029 N032 LXZ1-PL01
XU7 0 N045 N053 TL431
R23 N053 0 10k
R24 N045 N053 10k
R25 N046 N045 1k
C7 N044 N046 10n
R26 N049 0 1k
R27 N044 N045 330
R28 N043 N044 0.01
XU8 N044 0 N049 TS1220-600
Q3 N049 N046 N044 0 PNP
I9 N054 N051 {Isource}
I10 N054 0 {Isink}
D13 N051 N054 ID
D14 0 N054 ID
V9 N048 N051 4
C8 N043 0 440µ
D15 N042 N043 ID
S3 N037 N041 N040 0 ISW
V10 N040 0 PULSE(0 1 0.5 0.01 0.1 1 0 1)
R29 N044 0 1.16
R30 N041 N043 0.1
C9 0 N037 5800µF Rser=0.02
I11 N039 N038 {Isource}
I12 N039 0 {Isink}
D16 N038 N039 ID
D17 0 N039 ID
V11 N037 N038 36V
V12 N042 N048 PULSE(0 1 0.2 0.01 0.1 1 0 1)
XU9 0 N050 N052 TL431
R31 N052 0 12.5k
R32 N044 N052 10k
R33 N044 N047 200
D18 N047 N050 LXZ1-PL01
XU10 0 N063 N071 TL431
R34 N071 0 10k
R35 N063 N071 10k
R36 N064 N063 1k
C10 N062 N064 10n
R37 N067 0 1k
R38 N062 N063 330
R39 N061 N062 0.01
XU11 N062 0 N067 TS1220-600
Q4 N067 N064 N062 0 PNP
I13 N072 N069 {Isource}
I14 N072 0 {Isink}
D19 N069 N072 ID
D20 0 N072 ID
V13 N066 N069 4
C11 N061 0 440µ
D21 N060 N061 ID
S4 N055 N059 N058 0 ISW
V14 N058 0 PULSE(0 1 0.5 0.01 0.1 1 0 1)
R40 N062 0 1.16
R41 N059 N061 0.1
C12 0 N055 5800µF Rser=0.02
I15 N057 N056 {Isource}
I16 N057 0 {Isink}
D22 N056 N057 ID
D23 0 N057 ID
V15 N055 N056 36V
V16 N060 N066 PULSE(0 1 0.2 0.01 0.1 1 0 1)
XU12 0 N068 N070 TL431
R42 N070 0 12.5k
R43 N062 N070 10k
R44 N062 N065 200
D24 N065 N068 LXZ1-PL01
XU13 0 N081 N089 TL431
R45 N089 0 10k
R46 N081 N089 10k
R47 N082 N081 1k
C13 N080 N082 10n
R48 N085 0 1k
R49 N080 N081 330
R50 N079 N080 0.01
XU14 N080 0 N085 TS1220-600
Q5 N085 N082 N080 0 PNP
I17 N090 N087 {Isource}
I18 N090 0 {Isink}
D25 N087 N090 ID
D26 0 N090 ID
V17 N084 N087 4
C14 N079 0 440µ
D27 N078 N079 ID
S5 N073 N077 N076 0 ISW
V18 N076 0 PULSE(0 1 0.5 0.01 0.1 1 0 1)
R51 N080 0 1.16
R52 N077 N079 0.1
C15 0 N073 5800µF Rser=0.02
I19 N075 N074 {Isource}
I20 N075 0 {Isink}
D28 N074 N075 ID
D29 0 N075 ID
V19 N073 N074 36V
V20 N078 N084 PULSE(0 1 0.2 0.01 0.1 1 0 1)
XU15 0 N086 N088 TL431
R53 N088 0 12.5k
R54 N080 N088 10k
R55 N080 N083 200
D30 N083 N086 LXZ1-PL01
.model D D
.lib C:\Users\spenc\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\spenc\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1 0 20us startup uic
*  File     : high-temperature_scr_pspice.LIB
*  Revision : 7.0
*  Date     : 03/2023
*
**********************************************************************
*All ST products are sold pursuant to ST’s terms and conditions of sale.
*Purchasers are solely responsible for the choice, selection and use of the ST products and services described herein, and ST assumes no
*liability whatsoever relating to the choice, selection or use of the ST products and services described herein.
*No license, express or implied, by estoppel or otherwise, to any intellectual property rights is granted under this document. If any part of this
*document refers to any third party products or services it shall not be deemed a license grant by ST for the use of such third party products
*or services, or any intellectual property contained therein or considered as a warranty covering the use in any manner whatsoever of such
*third party products or services or any intellectual property contained therein.
*UNLESS OTHERWISE SET FORTH IN ST’S TERMS AND CONDITIONS OF SALE ST DISCLAIMS ANY EXPRESS OR IMPLIED
*WARRANTY WITH RESPECT TO THE USE AND/OR SALE OF ST PRODUCTS INCLUDING WITHOUT LIMITATION IMPLIED
*WARRANTIES OF MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE (AND THEIR EQUIVALENTS UNDER THE LAWS
*OF ANY JURISDICTION), OR INFRINGEMENT OF ANY PATENT, COPYRIGHT OR OTHER INTELLECTUAL PROPERTY RIGHT.
*UNLESS EXPRESSLY APPROVED IN WRITING BY AN AUTHORIZED ST REPRESENTATIVE, ST PRODUCTS ARE NOT
*RECOMMENDED, AUTHORIZED OR WARRANTED FOR USE IN MILITARY, AIR CRAFT, SPACE, LIFE SAVING, OR LIFE SUSTAINING
*APPLICATIONS, NOR IN PRODUCTS OR SYSTEMS WHERE FAILURE OR MALFUNCTION MAY RESULT IN PERSONAL INJURY,
*DEATH, OR SEVERE PROPERTY OR ENVIRONMENTAL DAMAGE. ST PRODUCTS WHICH ARE NOT SPECIFIED AS "AUTOMOTIVE
*GRADE" MAY ONLY BE USED IN AUTOMOTIVE APPLICATIONS AT USER’S OWN RISK.
*Resale of ST products with provisions different from the statements and/or technical features set forth in this document shall immediately void
*any warranty granted by ST for the ST product or service described herein and shall not create or extend in any manner whatsoever, any
*liability of ST.
*ST and the ST logo are trademarks or registered trademarks of ST in various countries.
*Information in this document supersedes and replaces all information previously supplied.
*The ST logo is a registered trademark of STMicroelectronics. All other names are the property of their respective owners.
*© 2008 STMicroelectronics - All rights reserved
*STMicroelectronics group of companies
*Australia - Belgium - Brazil - Canada - China - Czech Republic - Finland - France - Germany - Hong Kong - India - Israel - Italy - Japan -
*Malaysia - Malta - Morocco - Singapore - Spain - Sweden - Switzerland - United Kingdom - United States of America
*www.st.com
**********************************************************************
*
***********************************************************************
*                                               Thyristor PSpice Models                       *
***********************************************************************
* Note :
*
*               This thyristor model simulates:
*               -Igt MAX of the specification
*   -Il  Typ of the specification
*   -Ih  Typ of the specification
*   -VDRM
*   -VRRM
*   -Power dissipation is realistic and correspond to a typical SCR
*
*   All these parameters are constant, and don't vary neither
*   with temperature nor other parameters.
*
*   For a correct SCR behavior, the "Maximum step size" must be below
*   or equal 20µs.
*
*
*$
.subckt SCR_ST A K G PARAMS:
+ Vdrm=400v
+ Igt=20ma
+ Ih=6ma
+ Rt=0.01
*
* Vdrm : Repetitive forward off-state voltage
* Ih   : Holding current
* Igt  : Gate trigger current
* Rt   : Dynamic on-state resistance
*
*********************************
* Power circuit *
*********************************
*
****************************
*Switch circuit*
****************************
* Q1 & Q2 Conduction
S_S3         A Plip1 positive 0 Smain
*RS_S3        positive 0 1G
D_DAK1         Plip1 Plip2 Dak
R_Rlip         Plip1 Plip2  1k
V_Viak         Plip2 K DC 0 AC 0
*
****************************
*Gate circuit*
****************************
R_Rgk         G K  10G
D_DGKd        G Pg2 Dgk
V_Vig         Pg2 K DC 0 AC 0
R_Rlig        G Pg2  1k
*
****************************
*Interface circuit*
****************************
* positive pilot
R_Rp              Controlp positive  2.2
C_Cp              0 positive  1u
E_IF15OR3         Controlp 0 VALUE {IF(  ( (V(CMDIG)>0.5) | (V(CMDILIH)>0.5) |
+ (V(CMDVdrm)>0.5) ),400,0 )}
*
*
*
*
*********************************
* Pilots circuit *
*********************************
****************************
* Pilot Gate     *
****************************
E_IF1IG         CMDIG 0 VALUE {IF((((I(V_Vig))>(Igt-1u)))& (((V(A)-V(K))>0)),1,0 )}
*
****************************
* Pilot IHIL     *
****************************
*
E_IF10IL         inIL 0 VALUE {IF( ((I(V_Viak))>(Ih/2)),1,0 )}
E_IF5IH          inIH 0 VALUE {IF( ((I(V_Viak))>(Ih/3)),1,0 )}
*
* Flip_flop IHIL
E_IF6DIHIL         SDIHIL 0 VALUE {IF(
+ (V(inIL)*V(inIH)+V(inIH)*(1-V(inIL))*(V(CMDILIH)) )>0.5,1,0)}
C_CIHIL            CMDILIH 0  1n
R_RIHIL            SDIHIL CMDILIH  1K
R_RIHIL2           CMDILIH 0  100Meg
*
****************************
* Pilot VDRM     *
****************************
E_IF8Vdrm           inVdrm 0 VALUE {IF( ((V(A)-V(K))>(Vdrm*1.3)),1,0 )}
E_IF9IHVDRM         inIhVdrm 0 VALUE {IF( I(V_Viak)>(Vdrm*1.3)/1.2meg
+ ,1,0)}
* Flip_flop VDRM
E_IF7DVDRM         SDVDRM 0 VALUE {IF(
+ (V(inVdrm)+(1-V(inVdrm))*V(inIhVdrm)*V(CMDVdrm) )>0.5,1,0)}
C_CVdrm            CMDVdrm 0  1n
R_RVdrm            SDVDRM CMDVdrm  100
R_RVdrm2           CMDVdrm 0  100Meg
*
****************************
* Switch Model *
****************************
.MODEL Smain VSWITCH Roff=1.2meg Ron={Rt} Voff=0 Von=100
****************
* Diodes Model *
****************
.MODEL  Dak D( Is=3E-12 Cjo=5pf)
.MODEL  Dgk D( Is=1E-16 Cjo=50pf Rs=5 Bv=12V Ibv=100uA)
.ends
*
*********************************************************************
*                                                               SCR PSpice Library                  *
*********************************************************************
*********************************************************************
*                                                               Standard SCRs definition                                            *
*********************************************************************
*
*$
.subckt X0115M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.150ma
+ Ih=5ma
+ Rt=0.54
* 2023 / ST / Rev 0
.ends
*$
.subckt TXN825RG A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2021 / ST / Rev 0
.ends
*$
.subckt X0115MUF A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.150ma
+ Ih=5ma
+ Rt=0.23
* 2021 / ST / Rev 0
.ends
*$
.subckt TN2540-12G A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=40ma
+ Ih=80ma
+ Rt=0.014
* 2021 / ST / Rev 0
.ends
*$
.subckt TN4050-12WL A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0098
* 2021 / ST / Rev 0
.ends
*$
.subckt TN4050-12PI A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0098
* 2021 / ST / Rev 0
.ends
*$
.subckt TN6050-12WL A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0098
* 2021 / ST / Rev 0
.ends
*$
.subckt TN6050-12PI A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0071
* 2021 / ST / Rev 0
.ends
*$
.subckt TN815-800H A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.046
* 2021 / ST / Rev 0
.ends
*$
.subckt TN815-800B A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.046
* 2021 / ST / Rev 0
.ends
*$
.subckt TS110-8 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.1ma
+ Ih=12ma
+ Rt=0.22
* 2015 / ST / Rev 0
.ends
*$
.subckt TS820-600FP A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=200ua
+ Ih=5ma
+ Rt=0.046
* 2015 / ST / Rev 0
.ends
*$
.subckt BTW68-800 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=50ma
+ Ih=75ma
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW68-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=50ma
+ Ih=75ma
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW68-1200 A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=75ma
+ Rt=0.0085
* 2010 / ST / Rev 0
.ends
*$
.subckt BTW69-1200 A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0085
* 2013 / ST / Rev 1
.ends
*$
.subckt BTW69-800 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=80ma
+ Ih=150ma
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW69-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=80ma
+ Ih=150ma
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW67-1000 A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v
+ Igt=80ma
+ Ih=150ma
+ Rt=0.0085
* 2010 / ST / Rev 0
.ends
*$
.subckt BTW67-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=80ma
+ Ih=150ma
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt XL0840 A K G
X1 A K G SCR_ST params:
+ Vdrm=400v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt X0405N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.05ma
+ Ih=5ma
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0405M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.05ma
+ Ih=5ma
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0402N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0402M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0205N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.05ma
+ Ih=5ma
+ Rt=0.2
* 2008 / ST / Rev 0
.ends
*$
.subckt X0205M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.05ma
+ Ih=5ma
+ Rt=0.2
* 2008 / ST / Rev 0
.ends
*$
.subckt X0202M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.2
* 2008 / ST / Rev 0
.ends
*$
.subckt X00602 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.245
* 2008 / ST / Rev 0
.ends
*$
.subckt X00619 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.245
* 2010 / ST / Rev 0
.ends
*$
.subckt TYN606 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.06
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN816 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=25ma
+ Ih=40ma
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN812T A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=5ma
+ Ih=15ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN812 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN840 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=75ma
+ Rt=0.01
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN640 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=35ma
+ Ih=75ma
+ Rt=0.01
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN1225 A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2012 / ST / Rev 0
.ends
*$
.subckt TYN825 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN625 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TXN625 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2011 / ST / Rev 0
.ends
*$
.subckt TYN616 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=25ma
+ Ih=40ma
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN612T A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=5ma
+ Ih=15ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN612 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN612M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=5ma
+ Ih=20ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN608 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN810 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.035
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN610 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.035
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN1012T A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v
+ Igt=5ma
+ Ih=15ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN1012 A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TS420-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.09
* 2008 / ST / Rev 0
.ends
*$
.subckt TS1220-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN815-800B A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=15ma
+ Ih=40ma
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TN815-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=40ma
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TN805-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=5ma
+ Ih=25ma
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TN2540-800G A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TN2540-600G A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1625-600G A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=25ma
+ Ih=40ma
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1625-1000G A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v
+ Igt=25ma
+ Ih=40ma
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1515-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=40ma
+ Rt=0.025
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-800H A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=15ma
+ Ih=40ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-800G A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-800B A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=15ma
+ Ih=40ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1205T-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=5ma
+ Ih=15ma
+ Rt=0.03
* 2010 / ST / Rev 0
.ends
*$
.subckt TN1215-600H A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=40ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-600G A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=30ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=15ma
+ Ih=40ma
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt P0118M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.005ma
+ Ih=5ma
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0118D A K G
X1 A K G SCR_ST params:
+ Vdrm=400v
+ Igt=0.005ma
+ Ih=5ma
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0111M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.025ma
+ Ih=5ma
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0111D A K G
X1 A K G SCR_ST params:
+ Vdrm=400v
+ Igt=0.025ma
+ Ih=5ma
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0102M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0102D A K G
X1 A K G SCR_ST params:
+ Vdrm=400v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0102BL A K G
X1 A K G SCR_ST params:
+ Vdrm=200v
+ Igt=0.2ma
+ Ih=6ma
+ Rt=1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0202N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.2
* 2008 / ST / Rev 1
.ends
*$
.subckt TS110-7 A K G
X1 A K G SCR_ST params:
+ Vdrm=700v
+ Igt=0.1ma
+ Ih=2ma
+ Rt=0.2
* 2013 / ST / Rev 0
.ends
*$
* Any spice models used in this cirucit are propery of there respective owners
.param Isink 5000m
.param Isource 5000m
.model ID D(Ron=0 Roff=10Meg Vfwd=0)
.model ISW SW(Ron=0.00001 Roff=10Meg Vt=0.5 Vh=0)
* 5V OVP Circuit & Breakdown
* Current Limited voltage source
* Current Limited voltage source
* Mock Load
* Bulk Capacitor
* Crowbar Circuit
* Set voltage is when the voltage on the TL431 \nreferance pin is 2.5V +0.6V. The 0.6V is from\nthe PNP BJT.
* The power good light threashold is on when the TL431\nreferance pin is >2.5V
* 5V OVP Circuit & Breakdown
* Current Limited voltage source
* Current Limited voltage source
* Mock Load
* Bulk Capacitor
* Crowbar Circuit
* Set voltage is when the voltage on the TL431 \nreferance pin is 2.5V +0.6V. The 0.6V is from\nthe PNP BJT.
* The power good light threashold is on when the TL431\nreferance pin is >2.5V
* 5V OVP Circuit & Breakdown
* Current Limited voltage source
* Current Limited voltage source
* Mock Load
* Bulk Capacitor
* Crowbar Circuit
* Set voltage is when the voltage on the TL431 \nreferance pin is 2.5V +0.6V. The 0.6V is from\nthe PNP BJT.
* The power good light threashold is on when the TL431\nreferance pin is >2.5V
* 5V OVP Circuit & Breakdown
* Current Limited voltage source
* Current Limited voltage source
* Mock Load
* Bulk Capacitor
* Crowbar Circuit
* Set voltage is when the voltage on the TL431 \nreferance pin is 2.5V +0.6V. The 0.6V is from\nthe PNP BJT.
* The power good light threashold is on when the TL431\nreferance pin is >2.5V
* 5V OVP Circuit & Breakdown
* Current Limited voltage source
* Current Limited voltage source
* Mock Load
* Bulk Capacitor
* Crowbar Circuit
* Set voltage is when the voltage on the TL431 \nreferance pin is 2.5V +0.6V. The 0.6V is from\nthe PNP BJT.
* The power good light threashold is on when the TL431\nreferance pin is >2.5V
* Trip set to 5.8V
* Power good set to 4.5V or greater
.lib TL431.mod
.backanno
.end
